US08703761B2
C. (R)-3-Phenyl-pyrrolidine-1-carboxylic acid {1-[1-benzyl-5-(4-fluoro-phenyl)-1H-[1,2,4]triazol-3-ylcarbamoyl]-1-methyl-ethyl}-amide
THF (3 mL) was added to a flask containing 2-methyl-2-[((R)-3-phenyl-pyrrolidine-1-carbonyl)-amino]-propionic acid methyl ester (100 mg, 0.344 mmol) at 0° C. under N2. In a dropwise fashion 1 M LiHMDS in THF (344 uL, 0.344 mmol) was added to the flask. Upon complete addition the reaction was allowed to warm to room temp. After 2.5 hr 1-benzyl-5-(4-fluorophenyl)-1H-1,2,4-triazol-3-amine (92 mg, 0.344 mmol) in THF (1 mL) was added to the reaction. The reaction was allowed to stir overnight. The next day more 1 M LiHMDS in THF (172 uL, 0.172 mmol) was added. The reaction was stirred an additional 5.5 hr before being quenched with sat. NH4Cl (10 mL). The reaction was diluted with EtOAc (60 mL) and extracted with water (5 mL). The organic phase was dried over Na2SO4 and the solvent evaporated. The residue was purified by silica gel chromatography (60-100 EtOAc/HEP) followed by HPLC (C18, 50-100% MeOH/H2O+5 mM NH4OH) to afford the title compound as a white solid: 1H NMR (400 MHz, DICHLOROMETHANE-d2) 1.58 (d, J=3.92 Hz, 6H) 2.01-2.15 (m, 1H) 2.25-2.36 (m, 1H) 3.36 (t, J=9.22 Hz, 1H) 3.40-3.53 (m, 2H) 3.62-3.70 (m, 1H) 3.87 (t, J=8.21 Hz, 1H) 4.74 (br. s., 1H) 5.44 (s, 2H) 7.19-7.36 (m, 9H) 7.36-7.44 (m, 3H) 7.62-7.70 (m, 2H) 10.76 (br. s., 1H); Rt (method A)=1.61 min (M+H)+=527.2.

reactant | 2-methyl-2-[((R)-3-phenyl-pyrrolidine-1-carbonyl)-amino]-propionic acid methyl ester | 0.344 mmol, 100 mg | COC(C(C)(NC(=O)N1C[C@H](CC1)C1=CC=CC=C1)C)=O | C16H22N2O3
reactant | LiHMDS | 1 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-benzyl-5-(4-fluorophenyl)-1H-1,2,4-triazol-3-amine | 0.344 mmol, 92 mg | C(C1=CC=CC=C1)N1N=C(N=C1C1=CC=C(C=C1)F)N | C15H13FN4
reactant | LiHMDS | 1 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.172 mmol, 172 uL | C1CCOC1 | C4H8O
solvent | THF | 0.344 mmol, 344 uL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (R)-3-Phenyl-pyrrolidine-1-carboxylic acid {1-[1-benzyl-5-(4-fluoro-phenyl)-1H-[1,2,4]triazol-3-ylcarbamoyl]-1-methyl-ethyl}-amide | C(C1=CC=CC=C1)N1N=C(N=C1C1=CC=C(C=C1)F)NC(=O)C(C)(C)NC(=O)N1C[C@H](CC1)C1=CC=CC=C1 | C30H31FN6O2
